US03972926
To a round-bottomed flask containing trans-3-aminostilbene (3.34 g., 17.1 mmole) dissolved in dichloromethane (25 ml.) and triethylamine (2.7 ml., 1.95 g., 19.3 mmole) is added trifluoromethanesulfonic anhydride (2.9 ml., 4.9 g., 17.3 mmole) with stirring and external cooling (ice bath). The mixture is made basic with sodium hydroxide solution, then steam distilled to remove triethylamine and other volatile impurities. The residue is then acidified with hydrochloric acid and the solvent is removed in vacuo to give solid trans-3-(trifluoromethanesulfonamido)stilbene which is recrystallized twice from hexane-trichloroethylene to give an analytical sample, m.p. 62°-64° C.

reactant | trans-3-aminostilbene | 17.1 mmole, 3.34 g | NC=1C=C(C=CC1)\C=C\C1=CC=CC=C1 | C14H13N
reactant | triethylamine | 19.3 mmole, 2.7 ml, 1.95 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 17.3 mmole, 2.9 ml, 4.9 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | trans-3-(trifluoromethanesulfonamido)stilbene | FC(S(=O)(=O)NC=1C=C(C=CC1)\C=C\C1=CC=CC=C1)(F)F | C15H12F3NO2S
